HW3 DC Sweep
* Circuit Parts

V1 a b DC 1V
R1 a b 1k
R2 a d 1k
R3 a h 1k
R4 b e 1k
R5 b c 1k
R6 c f 1k
R7 e f 1k
R8 e h 1k
R9 h g 1k
R10 g f 1k
R11 g d 1k
R12 c d 1k
Rwire b 0 0

.control
* DC Sweep Analysis
dc V1 0.1 1 0.01
plot -V1#branch

plot -V1#branch/V(a)
.endc
.end